US07589232B2
Step b) Formation of 5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(3-fluorobenzoyl)amino]-2-hydroxybenzoic acid
The titled compound was prepared following the procedure C using N-{4-[(4-chlorophenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-3-fluorobenzamide and NaOH as a white powder (56%). 1H NMR (MeOD, 300 MHz) δ 7.51 (m, 5H), 7.45-7.22 (m, 5H), 7.20-7.02 (m, 4H), 6.79 (d, J=9 Hz, 1H), 5.15 (s, 2H) M− (ESI): 497.9. HPLC. Rt: 4.92 min (Purity: 97.9%).

reactant | N-{4-[(4-chlorophenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-3-fluorobenzamide | ClC1=CC=C(C=C1)C#CC1=CC=C(CN(C(C2=CC(=CC=C2)F)=O)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C32H23ClFNO4
reactant | NaOH | [OH-].[Na+]
product | 5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(3-fluorobenzoyl)amino]-2-hydroxybenzoic acid | ClC1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)C(C2=CC(=CC=C2)F)=O)C=C1 | C29H19ClFNO4
